US08349880B2
Step AAH (4): To a solution of 2,2-dimethyl-5-(4-(2-phenyl-1,3-dioxolan-2-yl)butanoyl)-1,3-dioxane-4,6-dione (4.0 g, 11.04 mmol) in xylene (30 mL) was added aniline (1.21 mL, 13.3 mmol). The r×n was stirred at 140° C. for 2 h. The crude reaction contents were directly loaded onto silica gel and purified by silica gel column chromatography (60% EtOAc/hexanes) to afford 3-oxo-N-phenyl-6-(2-phenyl-1,3-dioxolan-2-yl)hexanamide (3.0 g, 77% yield). 1H NMR (500 MHz, chloroform-d) δ ppm 9.16 (br. s., 1 H) 7.54 (d, J=7.63 Hz, 2 H) 7.44 (d, J=7.02 Hz, 2 H) 7.28-7.39 (m, 5 H) 7.12 (t, J=7.48 Hz, 1 H) 3.97-4.07 (m, 2 H) 3.72-3.82 (m, 2 H) 3.53 (s, 2 H) 2.60 (t, J=7.32 Hz, 2 H) 1.89-1.97 (m, 2 H) 1.67-1.79 (m, 2 H).

reactant | 2,2-dimethyl-5-(4-(2-phenyl-1,3-dioxolan-2-yl)butanoyl)-1,3-dioxane-4,6-dione | 11.04 mmol, 4.0 g | CC1(OC(C(C(O1)=O)C(CCCC1(OCCO1)C1=CC=CC=C1)=O)=O)C | C19H22O7
reactant | aniline | 13.3 mmol, 1.21 mL | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3-oxo-N-phenyl-6-(2-phenyl-1,3-dioxolan-2-yl)hexanamide | 3.0 g, 77% yield | O=C(CC(=O)NC1=CC=CC=C1)CCCC1(OCCO1)C1=CC=CC=C1 | C21H23NO4
